US05707976
2-(2,4-Difluorophenyl)-3-(1,2,4-triazol-1-yl)-2-(trimethylsilyloxy)propane
5.13 g (0.03 moles) of 1,2-epoxy-2-(2,4-difluorophenyl)-propane are reacted with 6.35 g (0.045 moles) of 1-(trimethylsilyl)-1,2,4-triazole and 0.14 g (0.0015 moles) of 1,2,4-triazol-1-yl sodium in 40 ml of dimethyl formamide at 80° C. for 3 hours. Then the reaction mixture is cooled to room temperature, neutralized by glacial acetic acid, mixed with 200 ml of water and extracted twice with 50 ml of dichloromethane each. The combined extracts are washed three times with 50 ml of water each, dried over water-free sodium sulfate and evaporated in vacuo. After carrying out a separation as described in Example 5, removal of the solvent and crystallization from n-heptane 6.0 g (64.5%) of the title compound are obtained; m.p.: 51°-53° C.

reactant | 1,2-epoxy-2-(2,4-difluorophenyl)-propane | 0.03 moles, 5.13 g | O1CC1(C)C1=C(C=C(C=C1)F)F | C9H8F2O
reactant | 1-(trimethylsilyl)-1,2,4-triazole | 0.045 moles, 6.35 g | C[Si](N1N=CN=C1)(C)C | C5H11N3Si
reactant | 1,2,4-triazol-1-yl sodium | 0.0015 moles, 0.14 g | N1(N=CN=C1)[Na]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-(2,4-Difluorophenyl)-3-(1,2,4-triazol-1-yl)-2-(trimethylsilyloxy)propane | FC1=C(C=CC(=C1)F)C(C)(CN1N=CN=C1)O[Si](C)(C)C | C14H19F2N3OSi
